US07348449B2
Synthesis of 6-[(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)hydroxymethyl]-2-naphthalenecarboxylic acid
0.5 g (1.08 mmol) of methyl 6-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylcarbonyl)-2-naphthalenecarboxylate is dissolved in 15 ml of tetrahydrofuran, 15 ml of water and 5 ml of methanol, and 0.14 g (3.25 mmol) of lithium hydroxide monohydrate is then added. The medium is refluxed for 2 hours, treated with 1N hydrochloric acid solution and extracted with ethyl acetate. The residue obtained is recrystallized from an ethyl acetate/heptane mixture. A white solid is obtained (0.45 g; yield=94%; 110° C.).

reactant | methyl 6-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylcarbonyl)-2-naphthalenecarboxylate | 1.08 mmol, 0.5 g | CC1(CC=C(C=2C=CC(=CC12)C(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)OC)C1=CC=C(C=C1)C)C | C32H28O3
reactant | water | 15 ml | O | H2O
reactant | lithium hydroxide monohydrate | 3.25 mmol, 0.14 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 6-[(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)hydroxymethyl]-2-naphthalenecarboxylic acid | CC1(CC=C(C=2C=CC(=CC12)C(C=1C=C2C=CC(=CC2=CC1)C(=O)O)O)C1=CC=C(C=C1)C)C | C31H28O3
